US06677462B2
A solution of 5-hydroxy-3-oxo-7-phenyl-heptanoic acid tert-butyl ester (0.96 g, 3.3 mmol) and TFA (0.38 g, 3.3 mmol) in DCM (60 mL) was stirred at rt for 18 h. Removal of the volatile components under reduced pressure afforded the product 6-Phenethyl-dihydro-pyran-2,4-dione as an off white solid (0.56 g, 78%). 1H NMR (300 MHz, CDCl3) δ1.9-2.2 (m, 2H), 2.4-2.7 (m, 2H), 2.75-2.95 (m, 2 H), 3.5 (q, 2H), 4.55-4.65(m, 1H), 7.10-7.35 (m, 5H). ESMS calcd (C13H14O3): 218.1; found: 219.1 (M+H)+.

reactant | 5-hydroxy-3-oxo-7-phenyl-heptanoic acid tert-butyl ester | 3.3 mmol, 0.96 g | C(C)(C)(C)OC(CC(CC(CCC1=CC=CC=C1)O)=O)=O | C17H24O4
reactant | TFA | 3.3 mmol, 0.38 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 6-Phenethyl-dihydro-pyran-2,4-dione | C(CC1=CC=CC=C1)C1CC(CC(O1)=O)=O | C13H14O3
